US07230031B2
4-(7-Amino-5-methylindan-4-yloxy)-2-(4-fluorobenzyl)phenol
The title compound was prepared in a similar manner to those described in Reference Example 34 using 4-[4-benzyloxy-3-(4-fluorobenzyl)phenoxy]-5-methyl-7-nitroindane instead of 4-(4-benzyloxy-3-iodophenoxy)-5-methyl-7-nitroindane and using Pd/C instead of Pt/C.

reactant | 4-[4-benzyloxy-3-(4-fluorobenzyl)phenoxy]-5-methyl-7-nitroindane | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1)CC1=CC=C(C=C1)F | C30H26FNO4
catalyst | Pd/C | [Pd] | Pd
product | 4-(7-Amino-5-methylindan-4-yloxy)-2-(4-fluorobenzyl)phenol | NC=1C=C(C(=C2CCCC12)OC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)F)C | C23H22FNO2
